US05409943
(c) N-(3-(2-Fluoro-4-methoxybenzyloxy)pyrid-2-yl)-N'-(4-chlorophenyl)guanidine
A mixture of yellow mercuric oxide (0.54 g, 0.0025 mol), N-[3-(2-fluoro-4-methoxybenzyloxy)pyrid-2-yl]-N'-(4-chlorophenyl)thiourea (0.8 g, 0.0021 mol) and methanolic ammonia solution (40 ml) was stirred for 2 days at room temperature. The solvent was removed in vacuo and the black residue was boiled with chloroform and filtered hot. Evaporation of the solvent followed by trituration with ether and recrystallisation from acetonitrile gave the desired product. Yield 0.37 g, (45%), m.p. 158°-161 ° C.

reactant | N-[3-(2-fluoro-4-methoxybenzyloxy)pyrid-2-yl]-N'-(4-chlorophenyl)thiourea | 0.0021 mol, 0.8 g | FC1=C(COC=2C(=NC=CC2)NC(=S)NC2=CC=C(C=C2)Cl)C=CC(=C1)OC | C20H17ClFN3O2S
reactant | ammonia | 40 ml | N | H3N
product | N-(3-(2-Fluoro-4-methoxybenzyloxy)pyrid-2-yl)-N'-(4-chlorophenyl)guanidine | FC1=C(COC=2C(=NC=CC2)NC(=N)NC2=CC=C(C=C2)Cl)C=CC(=C1)OC | C20H18ClFN4O2
